US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (pyridin-2-ylmethyl)-amine and DIEA to give 2-[(pyridin-2-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 347 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (pyridin-2-ylmethyl)-amine | N1=C(C=CC=C1)CN | C6H8N2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(pyridin-2-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | N1=C(C=CC=C1)CNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C19H14N4OS
